US04436748
A mixture of 1.62 g of α-[(2,3-dichloro-4-methoxy)phenylthio]hexanoic acid and 8 ml of thionyl chloride in 50 ml dichloromethane is refluxed for 30 minutes. The cooled solution is concentrated in vacuo to dryness at 60°, leaving the acid chloride as a yellow solid. The residue is dissolved in 100 ml dichloromethane, cooled to -70° and the solution is treated with 0.73 g of aluminum chloride in small portions. The cooling bath is removed after the addition is complete and the reaction mixture is stirred for 11/2-2 hours. The mixture is decomposed with water and the aqueous solution is extracted with 3×100 ml portions of dichloromethane. The organic layers are combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate is concentrated under reduced pressure to give a dark oil. The oil is dissolved in 100 ml of 100% ethanol and stirred under a nitrogen atmosphere. To this mixture is slowly added 1.0 g of sodium borohydride. Stirring is continued until the disappearance of the ketone intermediate, 2-n-butyl-6,7-dichloro-5-methoxybenzo[b]thiophen-3(2H)-one, is shown by a thin layer chromatography. The reaction mixture is quenched with 100 g ice-water and extracted with 3×100 ml-portions of diethyl ether. The organic layers are combined and washed with 1×100 ml-portions of water. The organic layer is dried, filtered, and the solvent removed in vacuo. The residue is chromatographed on 60 g of silica gel using dichloromethane as the eluant to give 0.76 g of 2-n-butyl-6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene as an oily epimeric mixture. Upon standing, crystals form from the isolated oil. Recrystallization from ether-hexane gives an isomer which melts at 95°-96°.

reactant | aluminum chloride | 0.73 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | 2-n-butyl-6,7-dichloro-5-methoxybenzo[b]thiophen-3(2H)-one | C(CCC)C1C(C2=C(S1)C(=C(C(=C2)OC)Cl)Cl)=O | C13H14Cl2O2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-n-butyl-6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene | 0.76 g | C(CCC)C1C(C2=C(S1)C(=C(C(=C2)OC)Cl)Cl)O | C13H16Cl2O2S
